data/core_train_final.csv
"CC(C)(C)C[CH2:10].[Cl:20][Cl:21]>>CC(C)(C)C[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:4][C:3]1([CH2:6][CH2:7][CH2:8][C:2]1=[CH:1])[CH3:5].[CH3:16][C:14]([CH3:17])([CH2:13][CH2:12][CH2:11][C:10]#[CH:9])[I:15]>>[CH3:16][C:14]([CH3:17])[CH2:13][CH2:12][CH2:11][C:10]#[CH:9].[CH3:4][C:3]1([CH2:6][CH2:7][CH2:8][C:2]1=[CH:1][I:15])[CH3:5] 1-1,15;14,15-1,15;14,15-14",Room Temperature,Propagation,abstraction
"[H:6][C:3]([CH3:7])([CH2:2][CH3:1])[CH2:4][CH3:5].[Br:8]>>[H:6][Br:8].[CH3:1][CH2:2][C:3]([CH3:7])[CH2:4][CH3:5] 8-6,8;3,6-6,8;3,6-3",Room Temperature,Propagation,abstraction
"[CH3:11][CH2:10][O:9][C:8](=[O:12])[CH:6]([CH3:7])[S:5][C:4]([S:13][CH2:14][CH3:15])[S:3][C:2]([CH3:1])([CH3:16])[C:17]#[N:18]>>[CH3:11][CH2:10][O:9][C:8](=[O:12])[CH:6][CH3:7].[CH3:15][CH2:14][S:13][C:4](=[S:5])[S:3][C:2]([CH3:1])([CH3:16])[C:17]#[N:18] 6,5-4,5; 4-4,5; 6,5-6",Room Temperature,Propagation,retroaddition
"[CH2:10]C(C)(C)[C:20]1=[CH:21]C=NC=C1>>CC([CH2:10]2)(C)[C:20]32C=CN=C[CH:21]3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)([CH2:10])[C:20]1=[CH:21]C2=C(C=CC=C2)C=C1>>CC1(C)[CH2:10][C:20]12C=CC3=C([CH:21]2)C=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH:9]1=[CH:8][CH:7]=[C:6]([CH:11]=[CH:10]1)[C:5](=[O:12])[O:4][O:3][C:2](=[O:1])[C:13]2=[CH:14][CH:15]=[CH:16][CH:17]=[CH:18]2.[He]>>[He].[CH:16]1=[CH:15][CH:14]=[C:13]([CH:18]=[CH:17]1)[C:2](=[O:1])[O:3].[CH:9]1=[CH:8][CH:7]=[C:6]([CH:11]=[CH:10]1)[C:5](=[O:12])[O:4] 4,3-4; 4,3-3",Light,Initiation,homolyze
"CC(=O)[O:20][O:21]C(=O)C>>CC(=O)[O:20].CC(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH2:20]=[CH:21]C1=CC=CC=C1.[O:10]C(=O)C1=CC=CC=C1>>C1=CC=C(C=C1)[CH:21][CH2:20][O:10]C(=O)C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)C.[Cl:20][Cl:21].[He]>>[He].CC(C)C.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[CH2:25]=[CH:24][C:22](=[CH2:21])[Cl:23].[CH2:20][CH:19]=[C:17]([CH2:16][CH2:15][CH:14]=[C:12]([CH2:11][CH2:10][CH:9]=[C:2]([CH2:3][O:4][S:5](=[O:6])(=[O:8])[O-:7])[Cl:1])[Cl:13])[Cl:18]>>[CH2:25][CH:24]=[C:22]([CH2:21][CH2:20][CH:19]=[C:17]([CH2:16][CH2:15][CH:14]=[C:12]([CH2:11][CH2:10][CH:9]=[C:2]([CH2:3][O:4][S:5](=[O:6])(=[O:8])[O-:7])[Cl:1])[Cl:13])[Cl:18])[Cl:23] 20-20,21; 21,22-20,21; 21,22-22,24; 24,25-22,24; 24,25-25",Room Temperature,Propagation,addition
"O=C(CCCCCCC/C=C\C=C\[C:10]([H])CCCCC)OC.[O][O:20]>>O=C(CCCCCCC/C=C\C=C\[C:10]([H])([O:20][O])CCCCC)OC 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][C:2]([H:3])([H:4])[H:5].[I:6].[He]>>[He].[H:3][C:2]([H:4])[H:1].[H:5][I:6] 6-6,5;2,5-6,5;2,5-2",Light,Propagation,abstraction
"CC1=CC=C(C=C1)[N+](=O)[O-].[Br:20][Br:21].[Ar]>>[Ar].CC1=CC=C(C=C1)[N+](=O)[O-].[Br:20].[Br:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"CCCCC[CH:11]=[CH2:10].[Br:20]>>CCCCC[CH:11][CH2:10][Br:20] 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,addition
"CCCCCC.[Cl:20][Cl:21].[He]>>[He].CCCCCC.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:3][C:2]([H:4])([H:5])[CH3:1].[Cl:6]>>[H:3][C:2]([H:4])[CH3:1].[H:5][Cl:6] 6-6,5;2,5-5,6;2,5-2",Room Temperature,Propagation,abstraction
[O-:1][N+:2]=O>>[O:1][N:2]=O 1-2,Room Temperature,Propagation,ha resonance
"C1CC[CH:10]C1.[Cl:20][Cl:21]>>C1CC[CH:10](C1)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:20]C(=O)C(C)OO.[O:10][O]>>CC(C(=O)[CH:20](C)[O:10][O])OO 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC[CH:10]CCC.[Cl:20][Cl:21]>>CCC[CH:10](CCC)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCOC(=O)[CH:10]C(=O)OCC.C[C:21](=[CH2:20])C#CC(CC1(CC(CC=C1)(C)C)C)OC(=O)C>>CCOC(=O)[CH:10]([CH2:20][C:21](C)C#CC(CC1(CC(CC=C1)(C)C)C)OC(=O)C)C(=O)OCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][CH:21](C)C1=CC=CC=C1.[Cl:10]>>[H:20][Cl:10].C[CH:21]C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1CC2=C([CH:20]1)C=CC=C2.[Br:10]>>C1CC2=C([CH:20]1[Br:10])C=CC=C2 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1].[CH3:2]>>[CH3:1][CH3:2] 1-1,2;2-1,2",Room Temperature,Termination,recombine
"CC[CH:20]C.CC1C[CH:10]CC(C1)(C)C>>CC[CH:20](C)[CH:10]1CC(CC(C1)(C)C)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:5][C:4]([CH3:6])([CH3:7])[C:2]([CH3:1])([CH3:3])[CH3:8].[Br:9]>>[H:5][Br:9].[CH3:6][C:4]([CH3:7])[C:2]([CH3:1])([CH3:3])[CH3:8] 9-9,5; 4,5-9,5; 4,5-4",Room Temperature,Propagation,abstraction
"[O:2][Cl:1].[O:4][Cl:3]>>[O:2]([O:4][Cl:3])[Cl:1] 2-2,4; 4-2,4",Room Temperature,Termination,recombine
"[H:20][CH2:21]C1=CC=CC=C1.[Cl:10]>>[H:20][Cl:10].[CH2:21]C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC12CCCCC1CCCC2.[Cl:20][Cl:21].[He]>>[He].CC12CCCCC1CCCC2.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
